US06610723B2
{1-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-ylmethyl]-1H-imidazol-2-yl}-methyl-amine Hydrochloride (1:1)
A suspension of 1-[1-(3,4-dichloro-phenyl)-1H-imidazol-4-ylmethyl]-1H-imidazol-2-ylamine (0.7 g, 2.3 mmol) in triethyl orthoformate (10 ml) was stirred under reflux for 2 h. The reaction mixture was evaporated to dryness, dissolved in ethanol (10 ml) and cooled in an ice bath. Sodium borohydride (0.091 g, 2.4 mmol) was added and the mixture was allowed to slowly reach 20° C. After 18 h AcOEt and brine was added and the organic phase was separated, dried (Na2SO4) and concentrated. After chromatography [silica, elution with gradient CH2Cl2 to 100% (CH2Cl2/MeOH/aq. NH4OH=90:10:1)] the free base of the title compound was obtained. It was crystallized as the off-white hydrochloride salt (0.25 g, 16%). Mp.>250° C. (MeOH/Et2O), MS: m/e=322 (M+H+).

reactant | 1-[1-(3,4-dichloro-phenyl)-1H-imidazol-4-ylmethyl]-1H-imidazol-2-ylamine | 2.3 mmol, 0.7 g | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CN1C(=NC=C1)N | C13H11Cl2N5
reactant | Sodium borohydride | 2.4 mmol, 0.091 g | [BH4-].[Na+]
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | triethyl orthoformate | 10 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | brine | [Cl-].[Na+].O
product | {1-[1-(3,4-Dichloro-phenyl)-1H-imidazol-4-ylmethyl]-1H-imidazol-2-yl}-methyl-amine Hydrochloride | Cl.ClC=1C=C(C=CC1Cl)N1C=NC(=C1)CN1C(=NC=C1)NC | InChI=1S/C14H13Cl2N5.ClH/c1-17-14-18-4-5-20(14)7-10-8-21(9-19-10)11-2-3-12(15)13(16)6-11;/h2-6,8-9H,7H2,1H3,(H,17,18);1H
